Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
codeine / generic percocet
 
Attending: ___.
 
Chief Complaint:
symptomatic uterine prolapse
 
Major Surgical or Invasive Procedure:
TOTAL VAGINAL HYSTERECTOMY, HIGH UTEROSACRAL VAGINAL VAULT 
SUSPENSION, BILATERAL SALPINGECTOMY, POSTERIOR REPAIR, MID 
URETHRAL SLING, CYSTOSCOPY

 
History of Present Illness:
Mrs. ___ is a ___  yo Gravida  4 Para 3  who presents
today in the office for a consultation requested by ___, MD regarding  uterine prolapse.  Her symptoms have been
present for approximately ___ years. 

Mrs. ___ reports vaginal pressure and  palpable prolapse. She
currently uses a pessary but is interested in surgical
management. 
 

Her treatment has included:
Pelvic floor exercises
Pessary - currently uses ring pessary with support 
 
 
She reports rare urinary incontinence events. She denies urinary
urgency, frequency and dysuria. She voids about 6 times a day,
nocturia x 0. She reports bladder emptying with normal
uninterrupted flow. She denies any hematuria, UTI's, kidney
stones or pyelonephritis.

She does need ambien for sleep but is not awoken from sleep. She
has a history of insomnia and depression. 
 

She reports constipation from narcotic use. She currently takes
Amitiza for constipation. She denies needing to splint to have
BM's. She denies fecal incontinence and states she has a normal
bowel movement almost daily.  

She is not currently sexually active because her husband has had
a recent prostatectomy.  She denies dyspareunia or vaginal
dryness. She does not use estrogen cream. She is very physically
active and does exercise and hike consistently. 

She is otherwise without any other significant complaints.
 
Past Medical History:
BACK PAIN                                                       
HYPERTENSION                                                    
GLUCOSE INTOLERANCE                                             
ATTENTION DEFICIT DISORDER WITHOUT HYPERACTIVITY                
BIPOLAR AFFECTIVE DISORDER                                      
DEGENERATIVE DISK DISEASE                                       
UTERINE PROLAPSE                                                
FIBROCYSTIC CHANGES IN BREAST                                   
FIBROMYALGIA 
Myofascial syndrome                                              


 
 
PAST SURGICAL HISTORY
TONSILLECTOMY                                                   

CESAREAN SECTION                                                

 
Social History:
___
Family History:
Mother with breast ca
Negative for colon or ovarian ca
 
Physical Exam:
Vitals: stable and within normal limits
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended,no remarkable tenderness. Bowel
sounds auscultated.
GU: pad with minimal spotting, incisions on mons are clean, dry
and intact, foley with clear urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Pertinent Results:
none
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing TOTAL VAGINAL HYSTERECTOMY, HIGH UTEROSACRAL 
VAGINAL VAULT SUSPENSION, BILATERAL SALPINGECTOMY, POSTERIOR 
REPAIR, MID URETHRAL SLING, CYSTOSCOPY. Please see the operative 
report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with intravenous morphine and 
Toradol.

On post-operative day 1, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to oral 
ibuprofen and Percocet.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Percocet (oxyCODONE-acetaminophen) 7.5 mg - 325 mg
Amphetamine-Dextroamphetamine XR 50 mg PO DAILY  
Amphetamine-Dextroamphetamine 10 mg PO TID  
Hydrochlorothiazide 12.5 mg/Lisinopril 10 mg PO DAILY   
Lubiprostone 8 mcg PO BID  
Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Do not take if you experience loose stools. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Please take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  Percocet (oxyCODONE-acetaminophen) 7.5 mg oral Q6H:PRN 
severe pain 
Do not exceed more than 4000 mg acetaminophen in 24 hours 
RX *oxycodone-acetaminophen [Percocet] 7.5 mg-325 mg 1 tablet(s) 
by mouth every four (4) hours Disp #*15 Tablet Refills:*0 
5.  Amphetamine-Dextroamphetamine XR 50 mg PO DAILY  
6.  Amphetamine-Dextroamphetamine 10 mg PO TID  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Lubiprostone 8 mcg PO BID  
10.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic uterine prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs. 
Please be aware that your Percocet has acetaminophen, so tally 
your total daily doses accordingly.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___